US06599902B2
To a mixture of (+)-carbobenzyloxy-D-proline (1.5 g, 6 mmol), EDAC (2.3 g, 2 eq.), HOBt (0.8 g, 2 eq.) in DMF (20 mL) was added triethylamine (1.5 mL) and cyclopropylamine (0.8 mL, 2 eq.). After stirring at RT for 18 h, the reaction was basified with sodium bicarbonate, poured to brine, and followed by extraction with dichloromethane. After concentration of the combined extracts, the residue was purified on a silica gel column eluting with 100% EtOAc to give 1.6 g (92%) of (R)-2-cyclopropylcarbamoyl-pyrrolidine-1-carboxylic acid benzyl ester.

reactant | (+)-carbobenzyloxy-D-proline | 6 mmol, 1.5 g | C(=O)(OCC1=CC=CC=C1)N1[C@@H](C(=O)O)CCC1 | C13H15NO4
reactant | EDAC | 2.3 g, 2 eq. | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.8 g, 2 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | cyclopropylamine | 0.8 mL, 2 eq. | C1(CC1)N | C3H7N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
solvent | triethylamine | 1.5 mL | C(C)N(CC)CC | C6H15N
product | (R)-2-cyclopropylcarbamoyl-pyrrolidine-1-carboxylic acid benzyl ester | 1.6 g, 92% | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)C(NC1CC1)=O | C16H20N2O3
